US06930120B2
2-Phenoxy-3-(4-benzyloxyphenyl)-3-hydroxy-2-methylpropionic acid ethyl ester (3.84 g, 9.5 mmol) in anhydrous CH2Cl2 (30 mL) was cooled to 0° C. and treated with BF3-Et2O (1.16 mL, 9.5 mmol) and triethylsilane (1.51 mL, 9.5 mmol). The mixture was stirred for 2 h and gradually warmed to ambient temperature. Saturated aqueous Na2CO3 (15 mL) was added and the mixture was stirred vigorously. The solution was partitioned and the organic layer was washed twice with water and brine, dried over Na2SO4, and concentrated in vacuo to produce 2-phenoxy-3-(4-benzyloxyphenyl)-2-methyl-propionic acid ethyl ester, shown above, as a colorless oil (1.34 g, 36%). Rf=0.90 (9:1 hexanes:ethyl acetate). 1H NMR (300 MHz, CDCl3): δ 7.36-7.42 (m, 3H), 7.34 (t, 1H), 7.17-7.24 (m, 5H), 6.98 (t, 1H), 6.91 (d, 2H), 6.83 (d, 2H), 5.05 (s, 2H), 4.22 (q, 1H, J=7.1), 3.26 (d, 1H, J=13.7), 3.13 (d, 1H, J=13.7), 1.40 (s, 3H), 1.22 (t, 3H, J=7.1). MS [EI+] 408 (M+NH4)+.

reactant | 2-Phenoxy-3-(4-benzyloxyphenyl)-3-hydroxy-2-methylpropionic acid ethyl ester | 9.5 mmol, 3.84 g | C(C)OC(C(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=CC=CC=C1)=O | C25H26O5
reactant | BF3 Et2O | 9.5 mmol, 1.16 mL | B(F)(F)F.CCOCC
reactant | triethylsilane | 9.5 mmol, 1.51 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | Na2CO3 | 15 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-phenoxy-3-(4-benzyloxyphenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=CC=CC=C1)=O | C25H26O4
